* S:\My Documents\DavidHouston\FPSi Senior Project\amplifier_setup.asc
Varduino Vin 0 PWL file="S:\My Documents\DavidHouston\FPSi Senior Project\programming\sawtooth_dc.txt"
V3 Vdd 0 34
Rs N002 Vin 2k
Q1 N001 N002 N005 0 2N2222
R1 Vdd N002 10k
R2 N002 0 1k
Re1 N005 N006 50
R4 N006 0 500
R5 Vdd N001 6k
C1 N006 0 10p
Q2 LPF N001 N003 0 2N2222
R6 Vdd N001 10k
R7 N001 0 1k
Re2 N003 N007 50
R8 N007 0 560
R9 Vdd LPF 4k
C2 N007 0 10p
R3 PED N004 370
C3 N004 0 15.51n
C5 PED LPF 1p
.model NPN NPN
.model PNP PNP
.lib C:\PROGRA~2\LTC\LTSPIC~1\lib\cmp\standard.bjt
.tran 0 0.08 0.01 0.001
* Fine Tune Varistor
* Large Step Varistor
* 2-Stage BJT Open-Loop Amplifier
.backanno
.end
